US06689777B2
2,6-diacetylpyridine bis(dimethylaminoacetylhydrazone) dihydrochloride:
A solution of 2,6-diacetylpyridine (Aldrich Chemical, Milwaukee, Wis., 0.815 g, 5 mmole) in hot ethanol (10 ml) was mixed with a solution of dimethylaminoacethydrazide hydrochloride (Avocado/Alfa Aesar, Ward Hill, Mass.) in warm water (10 ml). The mixture was heated to reflux briefly and allowed to cool. After 3 hrs the mixture was diluted with 20 ml isopropanol, causing a copious precipitate to form. The precipitate was filtered out and washed with isopropanol. Drying gave 2.065 g (95%) white crystalline solid, melting pt. 280-282° C. (dec.).

reactant | 2,6-diacetylpyridine | 5 mmole, 0.815 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | dimethylaminoacethydrazide hydrochloride | Cl.CN(C)CC(=O)NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2,6-diacetylpyridine bis(dimethylaminoacetylhydrazone) dihydrochloride | 2.065 g, 95% | Cl.Cl.CN(C)CC(=O)NN=C(C)C1=CC=CC(=N1)C(C)=NNC(CN(C)C)=O | InChI=1S/C17H27N7O2.2ClH/c1-12(19-21-16(25)10-23(3)4)14-8-7-9-15(18-14)13(2)20-22-17(26)11-24(5)6;;/h7-9H,10-11H2,1-6H3,(H,21,25)(H,22,26);2*1H
